US07528147B2
A solution of 2.08 g of potassium hydroxide in 7 ml of water is added to a solution of 0.83 g of 2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-5-fluoro-1-(toluene-4-sulfonyl)—1H-pyrrolo[2,3-b]pyridine in 100 ml of methanol brought to reflux. The mixture is agitated at reflux for 3 hours 30 minutes. After returning to around 20° C., the mixture is concentrated to dryness under reduced pressure (13 kPa). The residue is taken up with 50 ml of water and extracted with three times 80 ml of dichloromethane. The combined organic phases are dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (13 kPa). The residue is purified by flash chromatography on a silica column [eluent: ethyl acetate/methanol (90/10 by volume)]. 0.37 g of 2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-5-fluoro-1H-pyrrolo[2,3-b] pyridine is obtained in the form of a solid, the characteristics of which are as follows:

reactant | potassium hydroxide | 2.08 g | [OH-].[K+]
reactant | 2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-5-fluoro-1-(toluene-4-sulfonyl)—1H-pyrrolo[2,3-b]pyridine | 0.83 g | COC=1C=C2C(=CN(C2=CC1OC)CCN1CCOCC1)C1=CC=2C(=NC=C(C2)F)N1S(=O)(=O)C1=CC=C(C=C1)C | C30H31FN4O5S
solvent | water | 7 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-5-fluoro-1H-pyrrolo[2,3-b] pyridine | 0.37 g | COC=1C=C2C(=CN(C2=CC1OC)CCN1CCOCC1)C1=CC=2C(=NC=C(C2)F)N1 | C23H25FN4O3
